US04092310
310 mg of crude 18,18-difluoro-17β-hydroxy-oestr-4-en-3-one (18,18-difluoro-19-nor-testosterone) are dissolved in 40 ml of acetone and oxidised for 5 minutes at 0° C with about 1.5 equivalents of a 8 N solution of chromium-VI oxide in dilute sulphuric acid (Jones reagent). Saturated potassium acetate solution is added to the reaction mixture and the resulting mixture is diluted with ethyl acetate and the organic layer is washed with a saturated sodium chloride solution until neutral, dried and evaporated in an aspirator vacuum. The resulting residue is dissolved in a mixture of hexane/ethyl acetate (2:1) and filtered through 20 times the amount by weight of silica gel. The evaporated fractions give 18,18-difluoro-oestr-4-ene-3,17-dione, which after recrystallisation from methylene chloride/hexane melts at 186°-189° C. IR spectrum: 1745, 1670 and 1620 cm-1.

reactant | 18,18-difluoro-17β-hydroxy-oestr-4-en-3-one | 310 mg | FC([C@@]12[C@H](CC[C@H]1[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)O)F | C18H24F2O2
reactant | potassium acetate | C(C)(=O)[O-].[K+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | chromium-VI oxide | O.O.O.[Cr]
product | 18,18-difluoro-oestr-4-ene-3,17-dione | FC([C@@]12C(CC[C@H]1[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)=O)F | C18H22F2O2
